US09029528B2
(2) Synthesis of 3,4,5-tris(octadecyloxy)benzyl azide
3,4,5-Tris(octadecyloxy)benzyl chloride (4.02 g, 4.31 mmol) was dissolved in a mixed solvent of chloroform (40 mL) and N,N-dimethylformamide (120 mL), sodium azide (418 mg, 6.42 mmol) was added, and the mixture was stirred at 80° C. for 3 hr. After completion of the reaction, the reaction mixture was cooled to room temperature and washed with purified water (150 mL). The organic layer was dried over sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, methanol was added thereto, and the precipitated solid was collected by filtration. The obtained solid was dried under reduced pressure to give the title compound (3.92 g, 97.4%) as a white solid.

reactant | 3,4,5-Tris(octadecyloxy)benzyl chloride | 4.31 mmol, 4.02 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CCl)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H115ClO3
reactant | sodium azide | 6.42 mmol, 418 mg | [N-]=[N+]=[N-].[Na+]
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 3,4,5-tris(octadecyloxy)benzyl azide | 3.92 g, 97.4% | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H115N3O3
